US07576215B2
4-[3-({[(2-CHLOROPHENYL)AMINO]CARBONYL}AMINO)PHENYL]-8-(TRIFLUOROMETHYL) QUINOLINE-3-CARBOXYLIC ACID
The title compound was prepared from ethyl 4-(3-aminophenyl)-8-(trifluoromethyl)quinoline-3-carboxylate and 2-chlorophenyl isocyanate according to the procedure of Example 65. MS (ES) m/z 483.9.

reactant | ethyl 4-(3-aminophenyl)-8-(trifluoromethyl)quinoline-3-carboxylate | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)OCC | C19H15F3N2O2
reactant | 2-chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | 4-[3-({[(2-CHLOROPHENYL)AMINO]CARBONYL}AMINO)PHENYL]-8-(TRIFLUOROMETHYL) QUINOLINE-3-CARBOXYLIC ACID | ClC1=C(C=CC=C1)NC(=O)NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)O | C24H15ClF3N3O3
